US07008944B2
8,9-Diethyl-2-{[4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl]methyl}-2,3-dihydro[1,4]dioxino[2,3-f]quinoxaline
To a solution of (2R)-8,9-diethyl-2,3-dihydro[1,4]dioxino[2,3-f]-quinoxalin-2-ylmethyl 4-methylbenzenesulfonate (0.300 g, 0.700 mmole) in methyl sulfoxide (20 mL) was added 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.555 g, 2.800 mmole) and the reaction mixture was heated to 80° C. for 12 hours. The reaction mixture was allowed to cool to room temperature and was diluted with ethyl acetate (250 mL), washed with water (2×100 mL), aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, methanol:ethyl acetate 1:9) followed by recrystallization from ethanol provided 0.184 g (58%) of the (S)-enantiomer of the title compound as a yellow crystalline solid. Rf=0.41 (silica, methanol:ethyl acetate 1:9); mp>120° C. dec.

reactant | (2R)-8,9-diethyl-2,3-dihydro[1,4]dioxino[2,3-f]-quinoxalin-2-ylmethyl 4-methylbenzenesulfonate | 0.700 mmole, 0.300 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3N=C(C(=NC3=CC2)CC)CC)O1 | C22H24N2O5S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 2.800 mmole, 0.555 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | methyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 8,9-Diethyl-2-{[4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl]methyl}-2,3-dihydro[1,4]dioxino[2,3-f]quinoxaline | C(C)C1=NC2=CC=C3C(=C2N=C1CC)OC(CO3)CN3CCC(=CC3)C3=CNC1=CC=CC=C31 | C28H30N4O2
